* Created by KLayout
*** My special header ***

* cell opamp_houta
* pin ib
* pin out
* pin vdd
* pin vinn
* pin vinp
* pin vss
.SUBCKT opamp_houta ib out vdd vinn vinp vss
* device instance $1 r0 *1 65.4,118.7 PMOS
XM$1 vdd ib \$9 vdd PMOS L=2u W=80u AS=146p AD=146p PS=114.6u PD=114.6u
* device instance $5 r0 *1 20,113.7 PMOS
XM$5 vdd ib ib vdd PMOS L=2u W=60u AS=129p AD=129p PS=98.6u PD=98.6u
* device instance $7 r0 *1 192.3,117.7 PMOS
XM$7 vdd ib \$22 vdd PMOS L=2u W=220u AS=358.6p AD=358.6p PS=274.6u PD=274.6u
* device instance $17 r0 *1 370.4,115.3 PMOS
XM$17 vdd ib out vdd PMOS L=2u W=280u AS=456.4p AD=456.4p PS=340.6u PD=340.6u
* device instance $27 r0 *1 235,64.7 PMOS
XM$27 \$22 vinp \$10 \$22 PMOS L=2u W=500u AS=782.5p AD=782.5p PS=587.6u
+ PD=587.6u
* device instance $47 r0 *1 99.6,64.7 PMOS
XM$47 \$22 vinn \$16 \$22 PMOS L=2u W=500u AS=782.5p AD=782.5p PS=587.6u
+ PD=587.6u
* device instance $67 r0 *1 43.8,20.5 NMOS
XM$67 vss \$7 \$7 vss NMOS L=2u W=40u AS=86p AD=86p PS=68.6u PD=68.6u
* device instance $69 r0 *1 43.8,58 NMOS
XM$69 \$9 \$9 \$7 vss NMOS L=2u W=40u AS=86p AD=86p PS=68.6u PD=68.6u
* device instance $71 r0 *1 224.6,16.9 NMOS
XM$71 vss \$16 \$10 vss NMOS L=2u W=40u AS=86p AD=86p PS=68.6u PD=68.6u
* device instance $73 r0 *1 200,16.9 NMOS
XM$73 vss \$16 \$16 vss NMOS L=2u W=40u AS=86p AD=86p PS=68.6u PD=68.6u
* device instance $75 r0 *1 408,19.9 NMOS
XM$75 vss \$10 out vss NMOS L=2u W=100u AS=182.5p AD=182.5p PS=139.6u PD=139.6u
* device instance $79 r0 *1 389.2,61.4 NMOS
XM$79 \$25 \$9 \$10 vss NMOS L=2u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $81 r90 *1 511,70.6 F_CSIO
XC$81 \$25 out vss F_CSIO C=8.64e-12 A=14400p P=480u X=119.999998651
+ Y=120.000001349 m=1
.ENDS opamp_houta
