* Created by KLayout
*** My special header ***

* cell opamp_makoto645
* pin ib
* pin out
* pin vdd
* pin vinn
* pin vinp
* pin vss
.SUBCKT opamp_makoto645 ib out vdd vinn vinp vss
* device instance $1 r0 *1 15.8,39.3 PMOS
XM$1 \$36 vinp \$17 \$36 PMOS L=2u W=100u AS=176p AD=176p PS=137.6u PD=137.6u
* device instance $6 r0 *1 -48.3,39.3 PMOS
XM$6 \$36 vinn \$16 \$36 PMOS L=2u W=100u AS=176p AD=176p PS=137.6u PD=137.6u
* device instance $11 r180 *1 -169.5,50.8 PMOS
XM$11 ib ib vdd vdd PMOS L=2u W=48u AS=92.8p AD=92.8p PS=75.6u PD=75.6u
* device instance $14 r180 *1 -113.5,50.8 PMOS
XM$14 \$14 ib vdd vdd PMOS L=2u W=48u AS=92.8p AD=92.8p PS=75.6u PD=75.6u
* device instance $17 r0 *1 -65.1,95.2 PMOS
XM$17 vdd ib \$36 vdd PMOS L=2u W=200u AS=310.4p AD=310.4p PS=285.6u PD=285.6u
* device instance $42 r0 *1 108.6,86.5 PMOS
XM$42 vdd ib out vdd PMOS L=2u W=480u AS=761.6p AD=761.6p PS=559.6u PD=559.6u
* device instance $57 r0 *1 119.3,-7.2 NMOS
XM$57 vss \$17 out vss NMOS L=2u W=220u AS=356p AD=356p PS=275.6u PD=275.6u
* device instance $68 r0 *1 -47.4,-18.3 NMOS
XM$68 \$16 \$16 vss vss NMOS L=2u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $73 r0 *1 18.1,-18.3 NMOS
XM$73 \$17 \$16 vss vss NMOS L=2u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $78 r0 *1 -116.2,-38.7 NMOS
XM$78 \$7 \$7 vss vss NMOS L=2u W=22u AS=61.6p AD=61.6p PS=49.6u PD=49.6u
* device instance $79 r0 *1 -116.2,-4.7 NMOS
XM$79 \$7 \$14 \$14 vss NMOS L=2u W=22u AS=61.6p AD=61.6p PS=49.6u PD=49.6u
* device instance $80 r0 *1 115.5,32.2 NMOS
XM$80 \$17 \$14 \$39 vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $85 r270 *1 279.6,37.5 F_CSIO
XC$85 \$39 out vss F_CSIO C=8.64e-12 A=14400p P=480u X=119.999998651
+ Y=120.000001349 m=1
.ENDS opamp_makoto645
