** sch_path: /home/ishi-kai/openmpw-transistor-level-examples/OpenSUSI-TR10/opamp3/opamp1/opamp_ysd.sch
.subckt opamp_ysd vinp vinn out vdd vss ib
*.PININFO vinp:I vinn:I out:O vdd:B vss:B ib:B
X1 vinp vinn net2 vdd vss ib diff
X2 net2 ib out vdd vss cs
MM9 net1 ib vdd vdd PMOS w=48u l=2u m=1
MM12 net3 net1 net2 vss NMOS w=40u l=2u m=1
MM1 ib ib vdd vdd PMOS w=48u l=2u m=1
MM10 net1 net1 net4 vss NMOS w=22u l=2u m=1
MM11 net4 net4 vss vss NMOS w=22u l=2u m=1
XXC1 net3 out vss F_CSIO x=120u y=120u A=14.4n P=480u m=1
.ends

* expanding   symbol:  diff.sym # of pins=6
** sym_path: /home/ishi-kai/openmpw-transistor-level-examples/OpenSUSI-TR10/opamp3/opamp1/diff.sym
** sch_path: /home/ishi-kai/openmpw-transistor-level-examples/OpenSUSI-TR10/opamp3/opamp1/diff.sch
.subckt diff vinp vinn out vdd vss vb
*.PININFO vinn:I vinp:I vb:I out:O vdd:B vss:B
MM5 net2 vb vdd vdd PMOS w=200u l=2u m=1
MM1 net1 vinn net2 net2 PMOS w=100u l=2u m=1
MM2 out vinp net2 net2 PMOS w=100u l=2u m=1
MM3 net1 net1 vss vss NMOS w=50u l=2u m=1
MM4 out net1 vss vss NMOS w=50u l=2u m=1
.ends


* expanding   symbol:  cs.sym # of pins=5
** sym_path: /home/ishi-kai/openmpw-transistor-level-examples/OpenSUSI-TR10/opamp3/opamp1/cs.sym
** sch_path: /home/ishi-kai/openmpw-transistor-level-examples/OpenSUSI-TR10/opamp3/opamp1/cs.sch
.subckt cs vin vb out vdd vss
*.PININFO vb:I vin:I out:O vss:B vdd:B
MM6 out vb vdd vdd PMOS w=480u l=2u m=1
MM7 out vin vss vss NMOS w=220u l=2u m=1
.ends

